US09024032B2
To a suspension of 5-(benzyloxy)-2-(hydroxymethyl)-4H-pyran-4-one (92.9 g, 0.40 mol) in dilute aq hydrochloric acid (0.5 N, 800 mL) was added biphenyl-3-amine (74.4 g, 0.44 mol). The resulting mixture was heated under refluxed for 16 h. Concentration of the solvent gave a residue which was purified by silica gel chromatography (EtOAc:MeOH/20:1) to afford 5-(benzyloxy)-1-(biphenyl-3-yl)-2-(hydroxymethyl)pyridin-4(1H)-one as pale solid MS (ESI) (M+H)+384.

reactant | 5-(benzyloxy)-2-(hydroxymethyl)-4H-pyran-4-one | 0.40 mol, 92.9 g | C(C1=CC=CC=C1)OC=1C(C=C(OC1)CO)=O | C13H12O4
reactant | biphenyl-3-amine | 0.44 mol, 74.4 g | C1(=CC(=CC=C1)N)C1=CC=CC=C1 | C12H11N
solvent | hydrochloric acid | 0.5 N, 800 mL | Cl | ClH
product | 5-(benzyloxy)-1-(biphenyl-3-yl)-2-(hydroxymethyl)pyridin-4(1H)-one | C(C1=CC=CC=C1)OC=1C(C=C(N(C1)C=1C=C(C=CC1)C1=CC=CC=C1)CO)=O | C25H21NO3
